US07482330B2
A. 5-Bromo-3-formyl-indole-1-carboxylic acid diethylamide
To a suspension of sodium hydride (0.93 g, 37 mmol) in anhydrous THF (75 mL) was added dropwise a solution of 5-bromo-1H-indole-3-carbaldehyde (7.5 g, 34 mmol) in anhydrous THF (60 ml) at 0° C. After stirring at 0° C. for 15 min, N,N-diethylcarbamyl chloride (5.0 g, 37 mmol) was added dropwise into the reaction mixture. The mixture was warmed to room temperature and stirred overnight. The reaction was then quenched with water and extracted with ethyl acetate. The organics were washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was crystallized from ether/hexane to give the title compound (8.75 g, 80%) as a white solid.

reactant | sodium hydride | 37 mmol, 0.93 g | [H-].[Na+]
reactant | 5-bromo-1H-indole-3-carbaldehyde | 34 mmol, 7.5 g | BrC=1C=C2C(=CNC2=CC1)C=O | C9H6BrNO
reactant | N,N-diethylcarbamyl chloride | 37 mmol, 5.0 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 5-Bromo-3-formyl-indole-1-carboxylic acid diethylamide | 8.75 g, 80% | C(C)N(C(=O)N1C=C(C2=CC(=CC=C12)Br)C=O)CC | C14H15BrN2O2
